US06548671B2
2-Amino-5-benzenesulfonyl-8-methyl-1-phenyl-nonan-3-ol
To a solution of (4-benzenesulfonyl-1-benzyl-2-hydroxy-7-methyl-octyl)-carbamic acid benzyl ester in ethanol is added 10 mole % palladium hydroxide on carbon. The mixture is then shaken on a Parr shaker under 50 psi of hydrogen for approximately 18 h. The catalyst is filtered off and the solution concentrated to give the title compound.

reactant | (4-benzenesulfonyl-1-benzyl-2-hydroxy-7-methyl-octyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C(CC(CCC(C)C)S(=O)(=O)C1=CC=CC=C1)O)CC1=CC=CC=C1)=O | C30H37NO5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 2-Amino-5-benzenesulfonyl-8-methyl-1-phenyl-nonan-3-ol | NC(CC1=CC=CC=C1)C(CC(CCC(C)C)S(=O)(=O)C1=CC=CC=C1)O | C22H31NO3S
